Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Penicillins / Morphine / Latex
 
Attending: ___.
 
Chief Complaint:
Left leg pain and pain everywhere.
 
Major Surgical or Invasive Procedure:
None.

 
History of Present Illness:
___ yo F with sickle cell disease, h/o PE, hep C, multiple 
admissions- recently discharged from ___ on ___ellulitis. She was discharged on course of 
clindamycin. Now presents with 3 day history of LLE swelling, 
erythema, and left leg pain. Had fever measured to 101.9 at her 
group home. Patient does not recall trauma to the area. In last 
3 days patient additionally notes loss of appetite, nausea, and 
vomiting.  
.
Patient also reports left hip pain radiating from leg to medial 
aspect of left hip. Also complaing of has CP, radiating to back 
as well as abdominal pain. Although the left lower leg pain and 
swelling is new, she feels that the other pains are consistent 
with her prior sickle acute pain crises.  
.
In the ED, intial vitals were T 99.9, HR 107, BP 128/58, RR 18, 
O2Sat 99% RA. Patient received Morphine Sulfate (___) 60 mg PO, 
Dilaudid 8 mg PO, Dilaudid 1 mg IV, Phenytoin 200 mg PO, 
Gabapentin 300 mg PO, Diphenhydramine 50 mg PO, Vancomycin 1 g 
IV, Ceftriaxone 1 g IV. (Of note, has a penicllin allergy.) 
Blood cultures were drawn. UA performed and negative. CXR, Bilat 
Hips xray, and left Tib/Fib xrays obtained though were unread 
prior to transfer to the floor. Prior to transfer to the floor, 
vitals were T 99.8, HR 72, BP 124/77, RR 14, O2Sat 98% RA.  
.
Upon arrival to the floor, patient complaining of pain and 
itching and requesting 2 mg dilaudid IV as well as 50 mg 
benadryl IV.  
 
Past Medical History:
1) Sickle cell (HbSS) disease with frequent hospitalizations 
with pain crises.  
2) Pulmonary embolus in ___  
3) ? CVA in ___  
4) s/p acute chest syndrome requiring intubation in ___  
5) Asthma  
6) Borderline personality disorder/PTSD with history of suicidal 
ideation, past psychiatric hospitalizations  
7) Transfusion-related Hepatitis C  
8) s/p cholecystectomy  
9) Hx of seizure disorder-details unknown  
10) Hx of numerous port-a-cath placements  
11) Hx of coag-negative staph and MSSA line infections  
12) Hyperprolactinemia  
 
Social History:
___
Family History:
-mother ___ sickle trait
-father ___ has sickle cell anemia
also fam hx of HTN, HL, DM type II, blindness

 
Physical Exam:
Vitals 
98.8, Tmax on the floor 99.1
BP 102/65
HR 80
RR 18
100% RA
Gen: Ambulating female in NAD, then lying in bed slightly 
restless, avoiding eye contact ___ the time
HEENT: Dry mucus membranes. No lymphadenopathy. Scars at left 
neck from site of IV access insertion attempts. No swelling at 
left neck.
CV: RRR, no m/r/g
LUNGS: CTAB
ABD: +BS, soft, ND, ttp LUQ
EXTR: no edema, no induration, TTP on left shin, 2+ DP pulses. 
all extremities very skinny.

Temperature on morning of discharge: 98.7
HR range 24 hours before discharge: ___
BP range 24 hours before discharge: 105/65-114/68
 
Pertinent Results:
Patient refused labs and it was difficult to obtain access even 
with multiple attempts.

___ 04:15PM BLOOD WBC-7.5 RBC-2.20* Hgb-8.8* Hct-25.9* 
MCV-118* MCH-39.9* MCHC-33.8 RDW-24.4* Plt ___
___ 04:15PM BLOOD ___ PTT-34.4 ___
___ 04:51PM BLOOD Glucose-97 UreaN-5* Creat-0.3* Na-136 
K-4.9 Cl-107 HCO3-20* AnGap-14
___ 04:15PM BLOOD cTropnT-0.03*
___ 04:51PM BLOOD cTropnT-<0.01
___ 04:51PM BLOOD Calcium-9.1 Phos-3.0# Mg-1.9

CXR PA & Lateral:
FINDINGS: PA and lateral views of the chest were obtained. The 
cardiomediastinal silhouette is normal in appearance. The lungs 
are clear 
bilaterally. There are no pleural effusions or pneumothorax. No 
acute 
osseous abnormalities are identified. Surgical clips are noted 
in the right upper quadrant. 
IMPRESSION:   
No evidence of acute intrathoracic process. 

Left leg xray:
Normal left tibia and fibula. No evidence of osteomyelitis as 
clinically 
questioned. 

Bilateral hips xray:
IMPRESSION: 
No evidence of acute process involving the bilateral hips or 
pelvis. 

 
Brief Hospital Course:
# Left leg pain: Patient received IV Vancomycin and ceftriaxone 
on arrival for treatment of a mild cellulitis in a patient with 
sickle cell disease.  Her exam was unconcerning, however, for 
significant infection either at the left leg or neck.  Work-up 
was otherwise non-revealing and showed no evidence of pneumonia, 
abdominal infection, acute chest or other concerns.  She was 
transitioned to PO doxycycline and she was afebrile for the 
entirety of her hospital stay.  Plan on discharge was for a 
short 7-day course of doxycycline to cover the cellulitis.  The 
presumption was that having been given broad spectrum 
antibiotics on arrival, her exam was not entirely reliable.  As 
a result, it was felt that a short course of antibiotics would 
be the most reasonable option although her exam was nearly 
entirely benign at the time of discharge.  Rehospitalization for 
this issue would be necessary if the leg becomes significantly 
more erythematous, swollen, fluctuant, painful or fevers >101.5 
occur; otherwise, this can be monitored as an outpatient.  The 
mild phlebitis at the neck appeared to have been apporpriately 
treated with the previous 5 day course of clindamycin.
.
# Dehydration: the patient was rehydrated, and PO intake was 
encouraged
.
# Fever: Afebrile on discharge
.
# Soft stool: Per patient, not diarrhea, but if she were to 
develop diarrhea/watery stools, would be concerned about 
possible C. Diff infection, given she was on a recent course of 
clindamycin. No clinical evidence for this type of infection at 
this point.  Stool studies for C. Diff could confirm this 
diagnosis, and treatment would consist of oral metronidazole and 
cessation of any antibiotics as soon as possible.
.
# Suicidal ideation: Psychiatry saw the patient and felt that 
she would be best to return to her group home for outpatient 
psychiatric care.
.
# Pain control: Patient was on her home pain regimen for the 24 
hours prior to discharge, and this was adequate.
.
# Seizure: no evidence of seizure on this admission, continued 
on home phenytoin.  Continue to monitor levels regularly.
.
# Anticoagulation; INR 2.2, so 5mg coumadin continued; INR 
checks difficult to do due to patient cooperation. Please f/u 
INR on discharge.
.
# Sickle Cell: Given clear chest x-ray and 100% oxygen 
saturation on room air, and no evidence on physical exam, acute 
chest pain crisis was ruled out.
 
Medications on Admission:
1) Hydromorphone 4 mg Tablet Sig: ___ Tablets PO Q4H (every 4 
hours) as needed for pain.  
2) Albuterol Sulfate 2.5 mg /3 mL (0.083 %) Solution for 
Nebulization Sig: One (1) inhalation Inhalation Q4H (every 4 
hours) as needed for wheeze, SOB.  
3) Citalopram 20 mg Tablet Sig: One (1) Tablet PO DAILY (Daily)  

4) Docusate Sodium 100 mg Capsule Sig: One (1) Capsule PO BID (2 
times a day).  
5) Senna 8.6 mg Tablet Sig: One (1) Tablet PO once a day.  
6) Folic Acid 1 mg Tablet Sig: One (1) Tablet PO DAILY (Daily)  
7) Gabapentin 300 mg Capsule Sig: One (1) Capsule PO Q8H (every 
8 hours)  
8) Hydroxyurea 500 mg Capsule Sig: Two (2) Capsule PO DAILY 
(Daily)  
9) Mirtazapine 15 mg Tablet Sig: One (1) Tablet PO HS (at 
bedtime)  
10) Phenytoin Sodium Extended 100 mg Capsule Sig: Two (2) 
Capsule PO BID (2 times a day)  
11) Morphine 30 mg Tablet Sustained Release Sig: Two (2) Tablet 
Sustained Release PO Q12H (every 12 hours) as needed for pain  
12) Warfarin 5 mg Tablet Sig: One (1) Tablet PO Once Daily at 4 
___.  
13) Polyethylene Glycol 3350 100 % Powder Sig: One (1) 17g PO 
DAILY (Daily) as needed for constipation.  

 
Discharge Medications:
1. Albuterol Sulfate 2.5 mg /3 mL (0.083 %) Solution for 
Nebulization Sig: One (1)  Inhalation Q4H (every 4 hours) as 
needed for shortness of breath, wheeze.  
2. Citalopram 20 mg Tablet Sig: One (1) Tablet PO DAILY (Daily). 
 
3. Docusate Sodium 100 mg Capsule Sig: One (1) Capsule PO BID (2 
times a day).  
4. Senna 8.6 mg Tablet Sig: One (1) Tablet PO BID (2 times a 
day) as needed for constipation.  
5. Folic Acid 1 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  

6. Gabapentin 300 mg Capsule Sig: One (1) Capsule PO Q8H (every 
8 hours).  
7. Hydroxyurea 500 mg Capsule Sig: Two (2) Capsule PO DAILY 
(Daily).  
8. Mirtazapine 15 mg Tablet Sig: One (1) Tablet PO HS (at 
bedtime).  
9. Phenytoin Sodium Extended 100 mg Capsule Sig: Two (2) Capsule 
PO BID (2 times a day).  
10. Morphine 30 mg Tablet Sustained Release Sig: Two (2) Tablet 
Sustained Release PO Q12H (every 12 hours).  
11. Warfarin 5 mg Tablet Sig: One (1) Tablet PO Once Daily at 4 
___: Please check INR on ___, and on ___, and adjust coumadin dose as appropriate for goal INR ___. 
Afterwards, please check INR as appropriate to monitor.  
12. Polyethylene Glycol 3350 100 % Powder Sig: One (1)  PO DAILY 
(Daily) as needed for constipation.  
13. Camphor-Menthol 0.5-0.5 % Lotion Sig: One (1) Appl Topical 
TID (3 times a day) as needed for itching.  
14. Doxycycline Hyclate 100 mg Capsule Sig: One (1) Capsule PO 
Q12H (every 12 hours): Please take up to and including ___.
Disp:*11 Capsule(s)* Refills:*0*
15. Hydromorphone 4 mg Tablet Sig: ___ Tablets PO Q3H (every 3 
hours) as needed for pain.  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Left leg cellulitis
Sickle Cell Disease
Dehydration

 
Discharge Condition:
Stable. Afebrile. Pain controlled. Leg clinically improved.

 
Discharge Instructions:
You were admitted to the hospital with left leg pain and fever. 
For a mild skin infection of your left leg, we treated you with 
antibiotics (first IV and then oral). Your fever went away and 
the swelling on your leg decreased. For your dehydration we gave 
you IV fluids.
.
The following change was made to your medication:
- Doxycycline (an antibiotic), 100mg PO bid, for 7 days total 
(last day is ___.
.
Please call your doctor or return to the hospital if you have a 
fever >101.4, worse chest pain, worse shortness of breath, 
worsening leg pain/swelling/redness, or other symptoms that 
significantly concern you or your healthcare providers.
 
Followup Instructions:
___